US07951810B2
((2R,3S,4R,5R)-5-{6-[(4-bromobenzoyl)amino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)methyl sulfamate (I-112)
Using essentially the same procedure as example 39, step c, 4-bromo-N-{9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}benzamide (0.305 g, 0.622 mmol) was reacted with chlorosulfonamide, and the product was purified by flash chromatography (50 to 100% EtOAc/hexanes) to afford the title compound (0.243 g, 69%).

reactant | 4-bromo-N-{9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}benzamide | 0.622 mmol, 0.305 g | BrC1=CC=C(C(=O)NC2=C3N=CN(C3=NC=N2)[C@@H]2O[C@@H]([C@H]3OC(O[C@H]32)(C)C)CO)C=C1 | C20H20BrN5O5
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
product | ((2R,3S,4R,5R)-5-{6-[(4-bromobenzoyl)amino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)methyl sulfamate | 0.243 g, 69% | S(N)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C2=NC=NC(=C2N=C1)NC(C1=CC=C(C=C1)Br)=O)(=O)=O | C17H17BrN6O7S
